US06458830B1
(S)-2-Benzyloxy-1-(3,5-bis(trifluoromethyl)phenyl)ethanol
(S)-1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1,2-diol (11.45 g) and di-n-butyltin oxide (10.40 g) were dissolved in toluene (200 ml) and refluxed in a Dean and Stark apparatus for 16 hours. The toluene was removed under reduced pressure, cesium fluoride (12.70 g) suspended in N,N-dimethylformamide (200 ml) was added and the reaction stirred for 1 hour. The reaction was diluted with water and filtered through Hyflo™ before concentrating under reduced pressure and extracting into ethyl acetate. The organic phase was dried (brine, MgSO4) and concentrated under reduced pressure to give a crude brown oil. This was purified on silica eluting with 20% ethyl acetate/iso-hexane to afford the title compound as a pale yellow oil.

reactant | (S)-1-(3,5-Bis(trifluoromethyl)phenyl)ethan-1,2-diol | 11.45 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](CO)O)(F)F | C10H8F6O2
reactant | di-n-butyltin oxide | 10.40 g | C(CCC)[Sn](CCCC)=O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Benzyloxy-1-(3,5-bis(trifluoromethyl)phenyl)ethanol | C(C1=CC=CC=C1)OC[C@@H](O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H14F6O2
